US09403843B2
(2S,3S)ethyl-3-(1-(4-(4-fluorophenyl)thiazol-2-ylamino)-3-(1H-1-imidazol-4-yl)-1-oxopropan-2-ylcarbamoyl)oxirane-2-carboxylate (18c)
General procedure using: the racemic Boc-protected peptidomimetic (400 mg, 1.2 mmol); (2S,3S)-epoxysuccinic acid monoester (160 mg, 1.0 mmol), DIPEA (0.43 mL, 2.5 mmol) and HOBT (76 mg, 0.56 mmol) in DMF (5 ml); EDCI (210 mg, 1.1 mmol) in DMF (0.5 mL) gave the title compound (217 mg, 45.8%) as a racemic mixture in the form of a white solid. 1H NMR (DMSO-d6, 400 MHz): δ 12.50 (bs, 1H); 11.90 (bs, 1H); 8.85-8.76 (dd, 1H, J=7.14 Hz); 7.95-7.91 (q, 2H); 7.64-7.58 (m, 2H); 7.28-7.24 (t, 2H); 6.84 (bs, 1H): 4.79-4.75 (q, 1H); 4.22-4.18 (q, 2H); 3.74-3.73 (dd, 1H, J=1.80 Hz); 3.63-3.62 (dd, 1H; J=1.80 Hz); 3.17-3.08 (m, 2H); 1.25-1.21 (t, 3H). 13C NMR (DMSO-d6, 100 MHz): 169.53, 168.87, 168.81, 165.98, 165.83, 162.89, 160.47, 157.65, 147.82, 134.58, 132.10, 127.64, 127.56, 116.40, 115.60, 115.40, 108.04, 52.98, 52.75, 51.90, 28.55, 28.42.

reactant | DIPEA | 2.5 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 0.56 mmol, 76 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | EDCI | 1.1 mmol, 210 mg | CCN=C=NCCCN(C)C | C8H17N3
